US06914065B2
A stirred mixture of bromoacetaldehyde diethyl acetal (2.09 ml, 13.5 mmol) in concentrated hydrobromic acid (0.68 ml) and water (0.68 ml) was heated at reflux under nitrogen for 20 min. The solution was allowed to cool to room temperature, ethylene glycol dimethyl ether (5 ml) was added and the solution was neutralised to pH 7 with solid sodium hydrogen carbonate. The mixture was filtered and the solid was washed with more ethylene glycol dimethyl ether (7 ml). To the combined filtrates was added 4-amino-6-trifluoromethylpyrimidine (2.00 g, 12.3 mmol) and the mixture was stirred at 65° C. for 18 h. After allowing to cool, the solvent was removed in vacuo and the residue was purified by flash chromatography (silica gel, 5% MeOH/CH2Cl2) to give 2.426 g of 7-trifluoromethylimidazo[1,2-c]pyrimidine: 1H NMR (360 MHz, CDCl3) δ 7.81 (1H, s), 7.86 (1H, s), 7.96 (1H, s), 9.13 (1H, s).

reactant | bromoacetaldehyde diethyl acetal | 13.5 mmol, 2.09 ml | C(C)OC(CBr)OCC | C6H13BrO2
reactant | ethylene glycol dimethyl ether | 5 ml | COCCOC | C4H10O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | 4-amino-6-trifluoromethylpyrimidine | 12.3 mmol, 2.00 g | NC1=NC=NC(=C1)C(F)(F)F | C5H4F3N3
solvent | hydrobromic acid | 0.68 ml | Br | BrH
solvent | water | 0.68 ml | O | H2O
product | 7-trifluoromethylimidazo[1,2-c]pyrimidine | 2.426 g | FC(C1=CC=2N(C=N1)C=CN2)(F)F | C7H4F3N3
